US04780537
Preparation of 6-acetamido-1,2-dihydro-1-acetoxy-2-imino-4-p-toluenesulfonyloxy-pyrimidine
84 g (0.3 mole) of 2,6-diamino-4-tosyloxypyrmidine are added to 1200 ml of anhydrous tetrahydrofuran. 40 ml of a 70% aqueous hydrogen peroxide solution are dropped to the obtained suspension at room temperature while stirring, whereupon the material is dissolved. While stirring 200 ml of acetic anhydride are added to the solution at 40° C. in an hour. After adding the mixture is stirred at 60° C. for further two hours. Then the solvent is evaporated in vacuo and the residue is allowed to stand in a refrigerator for a night. The separated material is filtered, washed with tetrahydrofuran and dried. In this way 77 g (68%) of the aimed compound are obtained.

reactant | 2,6-diamino-4-tosyloxypyrmidine | 0.3 mole, 84 g | NC1=NC(=CC(=N1)OS(=O)(=O)C1=CC=C(C)C=C1)N | C11H12N4O3S
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | 6-acetamido-1,2-dihydro-1-acetoxy-2-imino-4-p-toluenesulfonyloxy-pyrimidine | 77 g, 68% | C(C)(=O)NC1=CC(=NC(N1OC(C)=O)=N)OS(=O)(=O)C1=CC=C(C=C1)C | C15H16N4O6S
